US04081595
Nmr: δd 6-DMSO : 1.36d(8.0Hz)3H, 3.62s2H, 3.93q(8.0Hz)1H, 4.90d(5.0Hz)1H, 5.40s2H, 5.87dd(5.0;8.0Hz)1H, 7.2-8.4m1OH. (II) To a solution of p-nitrobenzyl 7-phenylacetamido-2-methyl-3-chloro-3cephem-4-carboxylate-1-oxide (38 mg) in dimethylformamide (2 ml) one adds stannous chloride dihydrate (44 mg) and acetyl chloride (0.2 ml), stirs for 3hours under ice cooling, adds 5% hydrochloric acid, extracts with ethyl acetate, washes with water, dries, and chromatographs on silica gel to give p-nitrobenzyl 7-phenylacetamido-2-methyl-3-chloro-3cephem-4-carboxylate (29 mg).

reactant | p-nitrobenzyl 7-phenylacetamido-2-methyl-3-chloro-3cephem-4-carboxylate-1-oxide | 38 mg | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(C(S2=O)C)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C23H20ClN3O7S
reactant | acetyl chloride | 0.2 ml | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | p-nitrobenzyl 7-phenylacetamido-2-methyl-3-chloro-3cephem-4-carboxylate | 29 mg | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(C(S2)C)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C23H20ClN3O6S
